US06562989B2
2,5-dimethyl-4′-chlorobiphenyl (Table 13, Entry 2)
2-Bromo-m-xylene (77 mg, 0.42 mmol) reacted with 4-chlorophenylboronic acid (94 mg, 0.60 mmol) using 1/2 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and K3PO4 (254 mg, 1.20 mmol) in toluene at 100° C. to give the title compound (85 mg, 95%) as a colorless oil: 1H-NMR (400 MHz, CDCl3): δ 7.27 (d, 2H, J=8.0 Hz), 7.14 (d, 2H, J=8.0 Hz), 7.06 (d, 1H, J=7.6 Hz), 6.98 (bs, 1H), 6.92 (s, 1H), 2.25 (s, 3H), 2.11 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ 140.44, 135.30,132.66, 132.04, 130.46, 130.33, 128.23, 128.18, 20.88, 19.88. GC/MS(EI): m/z 216 (M+), 181, 166, 89.

reactant | 2-Bromo-m-xylene | 0.42 mmol, 77 mg | BrC1=C(C=CC=C1C)C | C8H9Br
reactant | 4-chlorophenylboronic acid | 0.60 mmol, 94 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K3PO4 | 1.20 mmol, 254 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5-dimethyl-4′-chlorobiphenyl | 85 mg, 95% | CC1=C(C=C(C=C1)C)C1=CC=C(C=C1)Cl | C14H13Cl
